US06777580B2
(R)-1-(3,5-Bis(trifluoromethyl)phenyl)ethan-1-ol
The ruthenium salt [RuCl2(P-Cymene)]2 and (S,R)-cis-aminoindanol were added to IPA at RT and aged 0.5 h. The solution generally turned bright yellow-orange over the age period. 1-(3,5-Bis(trifluoromethyl)phenyl)ethan-1-one was added and the reaction was degassed under vacuum. Base was then added and the reaction was aged until >98% complete by HPLC (4-6h). The reaction was then quenched by pouring it into 1 N HCl and extracted with heptane (2×10.5 L) and washed with 15 L brine. 1,4-Diazabicyclo[2.2.2]octane (DABCO) was added and the solution was concentrated to a volume of ˜4 mL/g of alcohol. At this point the KF was less than 200 and less than 5% IPA remains. The reaction can be flushed with additional heptane if these criteria are not met. Optionally, the reaction was seeded with the DABCO complex at 40° C. and the reaction was allowed to slowly cool to RT. Crystallization began to occur immediately. The reaction was then cooled to 0° C. and filtered. The cake was washed with cold heptane. The DABCO complex was isolated in 75-80% yield with an enantiomeric excess of >99%.

reactant | 1-(3,5-Bis(trifluoromethyl)phenyl)ethan-1-one | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C)=O)(F)F | C10H6F6O
catalyst | ruthenium | [Ru] | Ru
solvent | IPA | CC(C)O | C3H8O
product | (R)-1-(3,5-Bis(trifluoromethyl)phenyl)ethan-1-ol | 75-80% yield | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H](C)O)(F)F | C10H8F6O
